US05886008
U. 5-(4-Cyano-2-nitrophenyl)amino-3-(N-t-butoxycarbonyl-1,2,5,6-tetrahydropyrid-4-yl)-1H-indole
5-Amino-3-(N-t-butoxycarbonyl-1,2,5,6-tetrahydropyrid-4-yl)-1H-indole and 4-chloro-3-nitrobenzonitrile were used. Triethylamine was used as base, absolute ethanol was used as solvent, and the reaction was heated at reflux for 2 hours. Column chromatography using 1% methanol in methylene chloride afforded the title compound (40%) as a red foam: mp, decomposes 85° C.; Rf =0.35 in 1% methanol in methylene chloride; HRMS calculated for C25H25N5O4 459.1909, found 459.1853.

reactant | 5-Amino-3-(N-t-butoxycarbonyl-1,2,5,6-tetrahydropyrid-4-yl)-1H-indole | NC=1C=C2C(=CNC2=CC1)C1=CCN(CC1)C(=O)OC(C)(C)C | C18H23N3O2
reactant | 4-chloro-3-nitrobenzonitrile | ClC1=C(C=C(C#N)C=C1)[N+](=O)[O-] | C7H3ClN2O2
reactant | Triethylamine | C(C)N(CC)CC | C6H15N
reactant | methanol | CO | CH4O
solvent | ethanol | C(C)O | C2H6O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5-(4-Cyano-2-nitrophenyl)amino-3-(N-t-butoxycarbonyl-1,2,5,6-tetrahydropyrid-4-yl)-1H-indole | 40% | C(#N)C1=CC(=C(C=C1)NC=1C=C2C(=CNC2=CC1)C1=CCN(CC1)C(=O)OC(C)(C)C)[N+](=O)[O-] | C25H25N5O4
